US09371319B2
Preparation 119: 4-Methoxy-2-(1-methyl-1H-pyrazol-4-yl)pyrimidin-5-amine
Tetrakis(triphenylphosphine)palladium (30 mg, 0.026 mmol) was added to a solution of 2-chloro-4-methoxypyrimidin-5-amine (41 mg, 0.257 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (107 mg, 0.514 mmol) and cesium fluoride (117 mg, 0.771 mmol) in DME/MeOH (2/1, 1.6 mL). The reaction mixture was heated under microwave irradiation at 150° C. for 10 minutes. The reaction was then diluted with EtOAc and quenched with water. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude mixture was purified via Biotage silica gel column chromatography eluting with DCM/EtOH 99/1 to 90/10 followed by filtration through a SCX-2 column to afford the title product as a white solid (49 mg, 93%). 1H NMR (500 MHz, CDCl3): δ 3.68 (br s, 2H), 3.93 (s, 3H), 4.06 (s, 3H), 7.88 (s, 1H), 7.92 (s, 1H), 8.04 (s, 1H). LC (Method B)-MS (ESI, m/z) tR 1.33 min, 206 [M+H]+

reactant | 2-chloro-4-methoxypyrimidin-5-amine | 0.257 mmol, 41 mg | ClC1=NC=C(C(=N1)OC)N | C5H6ClN3O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.514 mmol, 107 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | cesium fluoride | 0.771 mmol, 117 mg | [F-].[Cs+]
solvent | DME MeOH | 1.6 mL | COCCOC.CO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.026 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Methoxy-2-(1-methyl-1H-pyrazol-4-yl)pyrimidin-5-amine | 49 mg, 93% | COC1=NC(=NC=C1N)C=1C=NN(C1)C | C9H11N5O
